US04309443
3-{4-(2-Carbomethoxy-1-methylethenyl)phenyl}-1, 1-dimethylpropanamine
This was prepared in an identical manner to the compound described in Description 6 using N-formyl-3-{4-(2-carboethoxy-1-methylethenyl)phenyl}-1, 1-dimethylpropanamine. τ(CDCl3 /D2O(8.8 (6H, s) 8.5-8.1 (2H, m), 7.48 (3H, d, J=1.5 Hz), 7.5-7.1 (2H, m), 6.3 (3H, s), {4.1 (broad) +3.88 (q, J=1.5 Hz), Total 1H}, 2.8 (2H, d, J=7 Hz), 2.55 (2H, d, J=7 Hz).

reactant | N-formyl-3-{4-(2-carboethoxy-1-methylethenyl)phenyl}-1, 1-dimethylpropanamine | C(=O)NC(CCC1=CC=C(C=C1)C(=CC(=O)OCC)C)(C)C | C18H25NO3
reactant | CDCl3 D2O | [2H]C(Cl)(Cl)Cl.[2H]O[2H]
product | 3-{4-(2-Carbomethoxy-1-methylethenyl)phenyl}-1, 1-dimethylpropanamine | C(=O)(OC)C=C(C)C1=CC=C(C=C1)CCC(N)(C)C | C16H23NO2
